US07566699B2
2′-Benzyloxy-6′-hydroxy-4-methylchalcone
To a suspension of 2′-benzyloxy-6′-hydroxyacetophenone (0.5 g) in ethanol (10 mL)-water (3 mL) was added potassium hydroxide (1.39 g), and the mixture was stirred at room temperature for 10 minutes. To the reaction mixture was added p-tolualdehyde (0.37 mL), and the mixture was stirred at room temperature for 45 minutes. The reaction mixture was acidified by addition of 2 mol/L hydrochloric acid (12.5 mL), and the precipitated crystals were collected by filtration. The crystals were washed with water and dried under reduced pressure to give the title compound (0.69 g).

reactant | 2′-benzyloxy-6′-hydroxyacetophenone | 0.5 g | C(C1=CC=CC=C1)OC1=C(C(=CC=C1)O)C(C)=O | C15H14O3
reactant | potassium hydroxide | 1.39 g | [OH-].[K+]
reactant | p-tolualdehyde | 0.37 mL | C1(=CC=C(C=C1)C=O)C | C8H8O
reactant | hydrochloric acid | 2 mol/L, 12.5 mL | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | water | 3 mL | O | H2O
product | 2′-Benzyloxy-6′-hydroxy-4-methylchalcone | 0.69 g | C(C1=CC=CC=C1)OC1=C(C(C=CC2=CC=C(C=C2)C)=O)C(=CC=C1)O | C23H20O3
